US04043796
16 ml of chlorosulfuric acid were added at -25° C to a mixture of 35.6 g. of di-n-butyl disulfide in 200 ml of methylene chloride and the mixture was stirred at -5° C and then was cooled to -40° C. A mixture of 35.6 g of N-methyl-N'-(3,4-dimethylphenyl)-urea in 280 ml of pyridine was added to the reaction mixture and the mixture was then stirred into a water, ice, hydrochloric acid and methylene chloride mixture. The decanted organic phase was dired and evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 9-1 benzene-ethyl acetate mixture yielded 20 g of N-methyl-N-n-butylthio-N'-(3,4-dimethylphenyl)-urea in the form of a yellow oil.

reactant | chlorosulfuric acid | 16 ml | S(O)(=O)(=O)Cl | ClHO3S
reactant | di-n-butyl disulfide | C(CCC)SSCCCC | C8H18S2
reactant | N-methyl-N'-(3,4-dimethylphenyl)-urea | 35.6 g | CNC(=O)NC1=CC(=C(C=C1)C)C | C10H14N2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 280 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-methyl-N-n-butylthio-N'-(3,4-dimethylphenyl)-urea | 20 g | CN(C(=O)NC1=CC(=C(C=C1)C)C)SCCCC | C14H22N2OS
